US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(p-chlorobenzoyl)-L-methionine and ethyl 4-benzylaminobutyrate and suitable processing, dissolving the evaporation residue in ethanol, adding an ethanolic solution of potassium hydroxide, stirring for 12 hours at room temperature and further processing yields N-[N-(p-chlorobenzoyl)-L-methionyl]-4-benzylaminobutyric acid.

reactant | N-(p-chlorobenzoyl)-L-methionine | ClC1=CC=C(C(=O)N[C@@H](CCSC)C(=O)O)C=C1 | C12H14ClNO3S
reactant | ethyl 4-benzylaminobutyrate | C(C1=CC=CC=C1)NCCCC(=O)OCC | C13H19NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | N-[N-(p-chlorobenzoyl)-L-methionyl]-4-benzylaminobutyric acid | ClC1=CC=C(C(=O)N[C@@H](CCSC)C(=O)N(CCCC(=O)O)CC2=CC=CC=C2)C=C1 | C23H27ClN2O4S
